US08466186B2
(c) 3-Amino-4-chloro-2-fluoro-benzoic acid
The sub-title compound was prepared from 3-acetylamino-4-chloro-2-fluoro-benzoic acid and 6 M HCl-solution in analogy to step 5b.

reactant | 3-acetylamino-4-chloro-2-fluoro-benzoic acid | C(C)(=O)NC=1C(=C(C(=O)O)C=CC1Cl)F | C9H7ClFNO3
reactant | HCl | 6 M | Cl | ClH
product | 3-Amino-4-chloro-2-fluoro-benzoic acid | Yield: 96% | NC=1C(=C(C(=O)O)C=CC1Cl)F | C7H5ClFNO2
